### PR TITLE
chore(Algebra/Ring/Subring): simp tag `Subring.smul_def`

### PR DESCRIPTION
**Pull request by pechersky**
s-multiplying by a subtype is easiest to manipulate when both terms are in the ambient type. Many places that had to use the _def lemma for a rewrite, or to include it in a simp set, no longer have to.

Ported from #25308

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

I found this being not-simp frustrating when talking about submodules over a valuation subring.

### CODE REVIEW

**Comment by wrenna-robson** [comment]
I feel like it isn't usual to make a `_def` lemma a simp-lemma. Do you have any other examples of us doing this?

**Comment by pechersky** [comment]
The reason to do it for this particular instance is because we already have the `smul_eq_mul` simp lemma. And s-multiplying by a subtype is easiest to manipulate when both terms are in the ambient type. As you can see from the diff, many places that had to use the `_def` lemma for a rewrite, or to include it in a simp set, no longer have to.

**Comment by pechersky** [comment]
Note that we even had `MulAction.subgroup_smul_def`

File: Mathlib/Algebra/Module/LocalizedModule/Basic.lean [hunk 1]
```diff
@@ -379,18 +379,15 @@ noncomputable instance isModule : Module T (LocalizedModule S M) where
   add_smul := add_smul_aux
   zero_smul := zero_smul_aux
 
-@[simp]
 theorem mk_cancel_common_left (s' s : S) (m : M) : mk (s' • m) (s' * s) = mk m s :=
```
Comment (j-loreaux) [inline Mathlib/Algebra/Module/LocalizedModule/Basic.lean]: I assume reason for removing all the `@[simp]` attributes is that the linter complains because `simp` can prove them, right?

File: Mathlib/Algebra/Module/LocalizedModule/Submodule.lean [hunk 2]
```diff
@@ -171,7 +171,7 @@ instance : IsLocalizedModule p (M'.toLocalized₀ p f) where
         ← IsLocalizedModule.mk'_smul, ← Submonoid.smul_def, IsLocalizedModule.mk'_cancel_right]
   surj' := by
     rintro ⟨y, x, hx, s, rfl⟩
-    exact ⟨⟨⟨x, hx⟩, s⟩, by ext; simp⟩
+    exact ⟨⟨⟨x, hx⟩, s⟩, by ext; exact IsLocalizedModule.mk'_cancel' ..⟩
```
Comment (j-loreaux) [inline Mathlib/Algebra/Module/LocalizedModule/Submodule.lean:173]: If I'm correct above, does `simp` no longer work here? Does this indicate some non-confluence?

**Review by j-loreaux — COMMENTED** [review]
overall I think this is probably a good choice, but I do have one small concern.

File: Mathlib/Algebra/Module/LocalizedModule/Basic.lean (hunk 1 above)
Comment (pechersky) [reply Mathlib/Algebra/Module/LocalizedModule/Basic.lean]: No, because the linter complains that the LHS is not in simp-normal form.

File: Mathlib/Algebra/Module/LocalizedModule/Submodule.lean (hunk 2 above)
Comment (pechersky) [reply Mathlib/Algebra/Module/LocalizedModule/Submodule.lean:173]: A lot of those `mk'_cancel` lemmas use the uncoerced smul style. And `simp` converts it away, so it doesn't match. I can change this proof to be
```
    exact ⟨⟨⟨x, hx⟩, s⟩, by ext; simpa using IsLocalizedModule.mk'_cancel' ..⟩
```

What do you prefer?

File: Mathlib/Algebra/Module/LocalizedModule/Basic.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Algebra/Module/LocalizedModule/Basic.lean]: Okay, so this makes me think that we should edit these lemmas so that the LHS *is* in `simp` normal form by adding the coercion. Hopefully that should obviate the need for the explicit calls to these lemmas.

Comment (pechersky) [reply Mathlib/Algebra/Module/LocalizedModule/Basic.lean]: I cleaned it up in and made them simp normal form. Many (but not all) proofs got cleaner.

**Comment by j-loreaux** [comment]
build failing

**Review by j-loreaux — APPROVED** [review]
maintainer merge

File: Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean [hunk 3]
```diff
@@ -52,7 +52,7 @@ lemma reflection_mem_weylGroup : Equiv.reflection P i ∈ P.weylGroup :=
 /-- The `ith` reflection as a term of the Weyl group. -/
 def weylGroup.ofIdx (i : ι) : P.weylGroup := ⟨_, P.reflection_mem_weylGroup i⟩
 
-@[simp] lemma weylGroup.ofIdx_smul (i : ι) (m : M) :
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/RootSystem/WeylGroup.lean:55]: What's the new simp-normal version of this?

**Comment by eric-wieser** [comment]
Can you edit the commit message part of the PR description to explain why this is a good idea, rather than just referencing the previous PR?

File: Mathlib/RingTheory/Localization/InvSubmonoid.lean [hunk 4]
```diff
@@ -64,7 +64,6 @@ theorem toInvSubmonoid_mul (m : M) : (toInvSubmonoid M S m : S) * algebraMap R S
 theorem mul_toInvSubmonoid (m : M) : algebraMap R S m * (toInvSubmonoid M S m : S) = 1 :=
   Submonoid.mul_leftInvEquiv_symm _ (submonoid_map_le_is_unit _ _) ⟨_, _⟩
 
-@[simp]
```
Comment (eric-wieser) [inline Mathlib/RingTheory/Localization/InvSubmonoid.lean:67]: And this too

**Review by eric-wieser — COMMENTED** [review]
I'm not super convinced by this yet, so would at least prefer to see a longer explanation before it is merged. At a glance, a lot of theore statements seem to have become messier.

**Comment by pechersky** [comment]
I agree that some statements have gotten messier, but those are mostly localized to "API" set up statements. While using that API is nicer in downstream proofs, because there are way fewer `<- Subfoo.smul_def` inserted into simp sets.

I'm happy to discuss/bikeshed/minimize blast radius of the changes.

**Comment by j-loreaux** [comment]
@eric-wieser do you want to have another look and decide what we should do with this?

**Comment by artie2000** [comment]
I have run into the same problem working with positive linear combinations of elements (ie semimodules over the nonnegative elements). I support merging this.

**Comment by kckennylau** [comment]
I am hesitant on this PR, are we suggesting that it's just bad to write `(s : Subring α) (x : s) (y : α) ⊢ x • y` ever since this is no longer simpNF? That seems to defeat the purpose of having this smul in the first place. On the other hand, maybe it *is* the case that we don't want to write that smul, and the only reason that smul exists is so that we can define Algebra instance etc?
